US04978753
In the manner given in Example 1, 2-amino-7-chloro-5-(o-bromophenyl)-3H-1,4-benzodiazepine, ethyl propiolate, and ethanol were refluxed. The mixture was chromatographed to give 9-chloro-7-(o-bromophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-7-chloro-5-(o-bromophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Br)C=C(C=C2)Cl | C15H11BrClN3
reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
solvent | ethanol | C(C)O | C2H6O
product | 9-chloro-7-(o-bromophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | ClC=1C=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=C(C=CC=C3)Br)C1 | C18H11BrClN3O
